US05814653
N-phenyl-N'-(3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazol-6-yl)thiourea
Beginning with 10.0 mg (0.0437 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 11.8 mg (0.0874 mMol) phenyl isothiocyanate, 7.2 mg (39%) of the title compound were recovered.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.0437 mMol, 10.0 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | phenyl isothiocyanate | 0.0874 mMol, 11.8 mg | C1(=CC=CC=C1)N=C=S | C7H5NS
product | N-phenyl-N'-(3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazol-6-yl)thiourea | 7.2 mg, 39% | C1(=CC=CC=C1)NC(=S)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C21H24N4S
